US07083862B2
Phosphorus tribromide (2.8 cm3, 30 mmol) was added to a solution of 3,5-bis(3′,5′-di-tert-butylstyryl)benzyl alcohol (1.60 g, 3.0 mmol) in dichloromethane (50 cm3) and the mixture stirred at room temperature for 3 h. Propan-2-ol (14 cm3) was added slowly and the solvent was completely removed. The residue was purified by column chromatography over silica, eluting with dichloromethane-light petroleum (40–60) (1:9), giving 3,5-bis(3′,5′-di-tert-butylstyryl)benzyl bromide (1.52 g, 85%). A sample for analysis was recrystallised from a dichloromethane-light petroleum (60–80) mixture, mp 222–223° C. (Found: C, 77.75; H, 8.72. C39H51Br requires C, 78.11; H, 8.57%); vmax(CHCl3)/cm−1 1596s (C═C) and 964s (C═C—H trans); λmax(CHCl3)/nm (log ε) 315 (4.82); δH(400 MHz, CDCl3) 1.38 (36H, s, t-Bu), 4.55 (2H, s, CH2), 712 and 7.24 (4H, d, J 16, 7′, 8′-H), 7.39 (2H, dd, J 1.5, 4′-H), 7.41 (4H, d, J 1.5, 2′, 6′-H), 7.47 (2H, d, J 1, 2, 6-H) and 7.63 (1H, m, 4-H); m/z (APCI+) 521 ((M-Br)+, 100%) and 599 (M+, 40%).

reactant | Phosphorus tribromide | 30 mmol, 2.8 cm3 | P(Br)(Br)Br | Br3P
reactant | 3,5-bis(3′,5′-di-tert-butylstyryl)benzyl alcohol | 3.0 mmol, 1.60 g | C(C)(C)(C)C=1C=C(C=CC=2C=C(CO)C=C(C2)C=CC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C39H52O
reactant | Propan-2-ol | 14 cm3 | CC(C)O | C3H8O
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 3,5-bis(3′,5′-di-tert-butylstyryl)benzyl bromide | 1.52 g, 85% | C(C)(C)(C)C=1C=C(C=CC=2C=C(CBr)C=C(C2)C=CC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C39H51Br
